US09085555B2
C. 1-Azidomethyl-2,3-difluoro-5-methoxy-benzene
To a solution of (2,3-difluoro-5-methoxy-phenyl)-methanol (715 mg, 4.11 mmol) in toluene (10 mL) was added DPPA (1.04 mL, 4.93 mmol) and DBU (0.805 mL, 5.34 mmol), followed by stirring at RT for 1 h. The reaction mixture was diluted with EtOAc, the organics were washed with diluted brine (20 mL), dried (Phase separator) and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 9:1) to afford the title compound as a colorless oil. TLC Rf (c-hexane/EtOAc 3:1)=0.55; MS (LC/MS): 208.0 [M+NH4]+; tR (HPLC conditions c): 5.46 min.

reactant | (2,3-difluoro-5-methoxy-phenyl)-methanol | 4.11 mmol, 715 mg | FC1=C(C=C(C=C1F)OC)CO | C8H8F2O2
reactant | DPPA | 4.93 mmol, 1.04 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 5.34 mmol, 0.805 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Azidomethyl-2,3-difluoro-5-methoxy-benzene | N(=[N+]=[N-])CC1=C(C(=CC(=C1)OC)F)F | C8H7F2N3O
